US08058293B2
2-fluoro-5-(methylsulfonylmethyl)pyridine
(6-Fluoropyridin-3-yl)methanol (215 mg, 1.69 mmol) in CH2Cl2 (10 mL) containing triethylamine (354 μL, 2.54 mmol) was treated with methanesulfonyl chloride (291 mg, 2.54 mmol) dropwise at 0° C., stirred at 0° C. for 30 min, diluted with water, and extracted with CH2Cl2 (2×10 mL). The combined organic extract was dried (MgSO4), filtered, and concentrated to afford a crude oil.

reactant | (6-Fluoropyridin-3-yl)methanol | 1.69 mmol, 215 mg | FC1=CC=C(C=N1)CO | C6H6FNO
reactant | triethylamine | 2.54 mmol, 354 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.54 mmol, 291 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-fluoro-5-(methylsulfonylmethyl)pyridine | FC1=NC=C(C=C1)CS(=O)(=O)C | C7H8FNO2S
